US07129238B2
(RS)-(4-Dimethylamino-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-(4-dimethylamino-phenyl)-2-methoxy-acetamide. Off-white solid. MS 324.2 ([M+H]+)

reactant | (RS)-(4-Dimethylamino-phenyl)-methoxy-acetic acid | CN(C1=CC=C(C=C1)C(C(=O)O)OC)C | C11H15NO3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-(4-dimethylamino-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=CC=C(C=C2)N(C)C)=O)C=C1 | C19H21N3O2
